US07582626B2
a) cis-2-[(5-Fluoro-pyridin-2-ylmethyl)-amino]-cyclopentanecarboxylic acid ethyl ester
A solution of ethyl cis-2-amino-1-cyclopentane carboxylate hydrochloride (0.250 g, 1.29 mmol) in ethanol (10 mL) was treated with 5-fluoro-pyridine-2-carbaldehyde, glacial acetic acid (10 drops), sodium cyanoborohydride (0.162 g, 2.58 mmol) and stirred for 72 h at 50° C. The reaction was extracted with ethyl acetate (100 mL) and washed with saturated aqueous sodium bicarbonate solution (100 mL). The organic layer was dried over sodium sulfate, filtered, concentrated in vacuo, and purified by flash column chromatography (Teledyne Isco RediSep Flash Column 10 g; 0-10% methanol in dichloromethane) to afford the desired product, cis-2-[(5-fluoro-pyridin-2-ylmethyl)-amino]-cyclopentanecarboxylic acid ethyl ester (0.179 g, 0.678 mmol, 52.5%), as a light yellow oil. LC-MS (ESI) calcd for C14H19FN2O2 266.14, found 267.2 [M+H+].

reactant | ethyl cis-2-amino-1-cyclopentane carboxylate hydrochloride | 1.29 mmol, 0.250 g | Cl.N[C@@H]1[C@@H](CCC1)C(=O)OCC
reactant | 5-fluoro-pyridine-2-carbaldehyde | FC=1C=CC(=NC1)C=O | C6H4FNO
reactant | sodium cyanoborohydride | 2.58 mmol, 0.162 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | acetic acid | 10 drops | C(C)(=O)O | C2H4O2
product | cis-2-[(5-fluoro-pyridin-2-ylmethyl)-amino]-cyclopentanecarboxylic acid ethyl ester | 0.678 mmol, 0.179 g, 52.5% | C(C)OC(=O)[C@H]1[C@H](CCC1)NCC1=NC=C(C=C1)F | C14H19FN2O2
